US07612078B2
5 N-(1-(3-(Methylsulfonyl)benzyl)piperidin-4-yl)-6-chlorothieno[2,3-d]pyrimidin-4-amine
The title compound was prepared (70 mg, 43%) from 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine (100 mg, 0.37 mmol) and 1-(bromomethyl)-3-(methylsulfonyl)benzene (139 mg, 0.55 mmol) by following the general procedure described for Preparation 12. 1H NMR (400 MHz, CDCl3): δ 8.40 (s, 1H), 7.95 (s, 1H), 7.80 (d, 1H), 7.60 (d, 1H), 7.50 (t, 1H), 7.05 (s, 1H), 5.25 (d, 1H), 4.20 (m, 1H), 3.60 (s, 2H), 3.05 (s, 3H), 2.80 (m, 2H), 2.20 (m, 2H), 2.05 (m, 2H), 1.60 (m, 2H). MS (EST) m/z: Calculated: 436.98; Observed: 437.2 (M++1).

reactant | 6-chloro-N-(piperidin-4-yl)thieno[2,3-d]pyrimidin-4-amine | 0.37 mmol, 100 mg | ClC1=CC2=C(N=CN=C2NC2CCNCC2)S1 | C11H13ClN4S
reactant | 1-(bromomethyl)-3-(methylsulfonyl)benzene | 0.55 mmol, 139 mg | BrCC1=CC(=CC=C1)S(=O)(=O)C | C8H9BrO2S
product | N-(1-(3-(Methylsulfonyl)benzyl)piperidin-4-yl)-6-chlorothieno[2,3-d]pyrimidin-4-amine | CS(=O)(=O)C=1C=C(CN2CCC(CC2)NC=2C3=C(N=CN2)SC(=C3)Cl)C=CC1 | C19H21ClN4O2S2
